US05691098
A mixture of sodium azide (683 mg, 10.5 mmol), p-toluenesulfonyl chloride (2.0 grams, 10.5 mmol), and 70% aqueous ethanol (30 mL) was stirred at room temperature for 1 hour. 1-Benzoylacetone (1.62 grams, 10.0 mmol) and triethylamine (1.46 mL, 10.5 mmol) were added. The reaction mixture was stirred at room temperature for 3 hours and then poured into deionized water (200 mL). The mixture was extracted with petroleum ether (2×200 mL). The extracts were combined and then washed with a saturated aqueous sodium chloride solution. The organic solution was dried using anhydrous magnesium sulfate, filtered, and concentrated to give 0.980 grams of 2-diazo1-phenyl-1,3-butanedione as a yellow oil. Decomposition temperature: 128° C. (by DSC).

reactant | sodium azide | 10.5 mmol, 683 mg | [N-]=[N+]=[N-].[Na+]
reactant | p-toluenesulfonyl chloride | 10.5 mmol, 2.0 grams | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-Benzoylacetone | 10.0 mmol, 1.62 grams | C(C1=CC=CC=C1)(=O)CC(=O)C | C10H10O2
reactant | triethylamine | 10.5 mmol, 1.46 mL | C(C)N(CC)CC | C6H15N
solvent | water | 200 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-diazo1-phenyl-1,3-butanedione | 0.980 grams | [N+](=[N-])=C(C(=O)C1=CC=CC=C1)C(C)=O | C10H8N2O2
